US07563928B2
1.42 Preparation of 3,5-dimethoxy-4-methyl-benzoic acid N-(1-ethyl-2,2-dimethyl-propyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide (RG-115820)
Into a 20 mL vial was added 161 mg (0.75 mmol) of 3,5 dimethoxy, 4-methyl benzoyl chloride, a 5 mL solution of 3-methoxy-2-methyl-benzoic acid N′-(1-ethyl-2,2-dimethyl-propyl)-hydrazide, and 1.5 mL of aqueous 25% K2CO3. The reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was transferred to a separatory funnel with CH2Cl2 and shaken with dilute aqueous NaHCO3. The organic phase was dried, concentrated and chromatographed on silica. 100 mg of pure product, 3,5-dimethoxy-4-methyl-benzoic acid N-(1-ethyl-2,2-dimethyl-propyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide, was eluted with 25% ethyl acetate/hexane. TLC: Rf=0.54 (1:1 ethyl acetate:hexane); 1H NMR (CDCl3, 300 MHz) δ (ppm): 6.6-7.2 (m, 4H), 6.25 (d, 1H), 4.6 (d, 1H), 3.8-3.95 (br s, 9H), 2.1 (br s, 3H), 1.9 (s, 3H), 1.6 (br, 2H), 1.3 (m, 3H), 0.9-1.2 (br d, 9H).

reactant | 4-methyl benzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 3-methoxy-2-methyl-benzoic acid N′-(1-ethyl-2,2-dimethyl-propyl)-hydrazide | C(C)C(C(C)(C)C)NNC(C1=C(C(=CC=C1)OC)C)=O | C16H26N2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,5-dimethoxy-4-methyl-benzoic acid N-(1-ethyl-2,2-dimethyl-propyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide | C(C)C(C(C)(C)C)N(NC(C1=C(C(=CC=C1)OC)C)=O)C(C1=CC(=C(C(=C1)OC)C)OC)=O | C26H36N2O5
